US07208633B2
bis(3,5-dimethylphenyl)phosphine oxide
Under a nitrogen stream, a solution of magnesium (3.28 g, 4.01 equivalents), a small amount of iodine and 1,2-dibromoethane in THF (10 mL) was stirred at room temperature for 1.5 hrs. A solution of 5-bromo-m-xylene (25.2 g, 4.05 equivalents) in THF (100 mL) was added at 25° C., and the mixture was stirred at 40° C. for 40 min. A solution of diethyl phosphite (4.64 g, 33.6 mmol) in THF (5 mL) was added at −33° C., and the mixture was stirred at 0° C. for 30 min. Water (30 mL) was added at 3° C., and 6M-HCl (20 mL) and toluene (50 mL) were added. The mixture was stirred at room temperature for 30 min. The reaction mixture was partitioned, and the organic layer was washed with 10% aqueous NaHCO3 solution (30 mL), and the organic layer was concentrated under reduced pressure. The residue was recrystallized from heptane and dried (reduced pressure, 50° C.) to give the title compound (6.80 g, white powder). yield 78.3%. melting point: 82.4° C.

reactant | magnesium | 3.28 g, 4.01 equivalents | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | 5-bromo-m-xylene | 25.2 g, 4.05 equivalents | BrC=1C=C(C=C(C1)C)C | C8H9Br
reactant | diethyl phosphite | 33.6 mmol, 4.64 g | P(OCC)(OCC)[O-]
reactant | HCl | 20 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 30 mL | O | H2O
product | bis(3,5-dimethylphenyl)phosphine oxide | 6.80 g, yield 78.3% | CC=1C=C(C=C(C1)C)P(C1=CC(=CC(=C1)C)C)=O | C16H19OP
